US07282588B2
N′-[4-(4-bromo-1-methyl-1H-pyrazol-3-yl)phenyl]-N,N-dimethylurea
Following the procedure described for Example 5a using [4-(4-bromo-1-methyl-1H-pyrazol-3-yl)phenyl]amine and 2M dimethylamine in tetrahydrofuran provided the title compound. ESMS [M+H]+: 323.2

reactant | [4-(4-bromo-1-methyl-1H-pyrazol-3-yl)phenyl]amine | BrC=1C(=NN(C1)C)C1=CC=C(C=C1)N | C10H10BrN3
reactant | dimethylamine | 2M | CNC | C2H7N
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | N′-[4-(4-bromo-1-methyl-1H-pyrazol-3-yl)phenyl]-N,N-dimethylurea | BrC=1C(=NN(C1)C)C1=CC=C(C=C1)NC(N(C)C)=O | C13H15BrN4O
